US08207134B2
5) Synthesis of [3-bromo-5-[(4-ethylphenyl)methyl]-naphthalen-2-yl]-methanol
Under a nitrogen stream, methyl 3-bromo-5-[(4-ethylphenyl)methyl]-2-naphthoate (334.1 mg, 0.87 mmol) was dissolved in diethyl ether (10.0 mL). To the resultant mixture was added lithium aluminum hydride (39.7 mg, 1.04 mmol) under ice-cooling, and the resultant mixture was stirred for 30 minutes. Water was added thereto, and the resultant mixture was extracted with dichloromethane. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure, to thereby obtain the titled compound (305.8 mg, 89%).

reactant | methyl 3-bromo-5-[(4-ethylphenyl)methyl]-2-naphthoate | 0.87 mmol, 334.1 mg | BrC=1C(=CC2=CC=CC(=C2C1)CC1=CC=C(C=C1)CC)C(=O)OC | C21H19BrO2
reactant | lithium aluminum hydride | 1.04 mmol, 39.7 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | O | H2O
solvent | diethyl ether | 10.0 mL | C(C)OCC | C4H10O
product | [3-bromo-5-[(4-ethylphenyl)methyl]-naphthalen-2-yl]-methanol | 305.8 mg, 89% | BrC=1C(=CC2=CC=CC(=C2C1)CC1=CC=C(C=C1)CC)CO | C20H19BrO
